US09278983B2
To a mixture of 1-[2-(2-ethylsulfanyl-phenyl)-3-methyl-3H-imidazo[4,5-b]pyridin-6-yl]-2,2,2-trifluoro-ethanol (98 mg), toluene (10 ml), and pyridine (50 μl), thionyl chloride (1 ml) was added. The mixture was stirred with heating at 50° C. for 5 hours, and then saturated aqueous sodium hydrogen carbonate solution was poured, and extracted with ethyl acetate. The combined organic layer was dried over sodium, sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 66 mg of 6-(1-chloro-2,2,2-trifluoro-ethyl)-2-(2-ethylsulfanyl-phenyl)-3-methyl-3H-imidazo[4,5-b]pyridine (hereinafter referred to as Present Compound 266).

reactant | 1-[2-(2-ethylsulfanyl-phenyl)-3-methyl-3H-imidazo[4,5-b]pyridin-6-yl]-2,2,2-trifluoro-ethanol | 98 mg | C(C)SC1=C(C=CC=C1)C1=NC=2C(=NC=C(C2)C(C(F)(F)F)O)N1C | C17H16F3N3OS
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
reactant | thionyl chloride | 1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | pyridine | 50 μl | N1=CC=CC=C1 | C5H5N
product | 6-(1-chloro-2,2,2-trifluoro-ethyl)-2-(2-ethylsulfanyl-phenyl)-3-methyl-3H-imidazo[4,5-b]pyridine | 66 mg | ClC(C(F)(F)F)C=1C=C2C(=NC1)N(C(=N2)C2=C(C=CC=C2)SCC)C | C17H15ClF3N3S
